US20010007873A1
A. 1-Isopropyl-3-benzyloxy-benzene
Under a N2 atmosphere in 300 mL of acetone was combined 20.0 ml (146.0 mmol) of 3-isopropylphenol and 40.35 g (291.9 mmol) of potassium carbonate followed by 17.36 mL (146.0 mmol) of benzyl bromide. The reaction was allowed to reflux with stirring for 16 hours. More (5 ml) benzyl bromide was added and heating was continued for another 24 hours. The reaction mixture was allowed to cool to ambient temperature and solids were removed by filtration and washed with acetone. The filtrate was concentrated in vacuo . The solid residue was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (1×300 mL) and the combined organic extracts were washed with 1M NaOH (1 X 200 mL) and brine (1×150 mL), dried over sodium sulfate, filtered and concentrated in vacuo (100° C. at 1 mm Hg) to yield 33.80 g (100%) of crude product (the title compound) as a yellow oil.

reactant | 3-isopropylphenol | 146.0 mmol, 20.0 ml | C(C)(C)C=1C=C(C=CC1)O | C9H12O
reactant | potassium carbonate | 291.9 mmol, 40.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 146.0 mmol, 17.36 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 1-Isopropyl-3-benzyloxy-benzene | 33.80 g, 100% | C(C)(C)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C16H18O
